data/rdb19/train.csv
rxn,smiles,ea
3240,[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11])([H:7])([H:8])[H:9].[C:21]([C:22]([C:23]([H:24])[H:25])([O:26][C:27](=[O:28])[C:29]([H:34])([H:35])[H:36])[H:33])([H:30])([H:31])[H:32]>>[C:1]([H:7])([H:8])([H:9])[H:33].[C:21]([C:22](=[C:23]([H:24])[H:25])[O:26][C:27](=[O:28])[C:29]([H:34])([H:35])[H:36])([H:30])([H:31])[H:32].[C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11],82.80974158726167
994,[C:14]([C:15]([C:16](=[C:17]([H:24])[H:25])[H:23])([H:21])[H:22])([H:18])([H:19])[H:20].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11]>>[C:1]([C:2]([C:3]([H:4])([H:5])[C:16]([C:15]([C:14]([H:18])([H:19])[H:20])([H:21])[H:22])([C:17]([H:24])[H:25])[H:23])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11],16.684939469094388
3332,[C:13]([C:14]([C:15]([C:16]([H:25])([H:26])[H:27])[C:17](=[O:18])[O:19][H:28])([H:23])[H:24])([H:20])([H:21])[H:22].[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])([H:6])[H:7]>>[C:13]([C:14]([C:15](=[C:16]([H:25])[H:26])[C:17](=[O:18])[O:19][H:28])([H:23])[H:24])([H:20])([H:21])[H:22].[C:1]([C:2]([C:3]([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[H:27])([H:5])([H:6])[H:7],42.085532890225295
3450,[C:17]([O:18][C:19](=[O:20])[C:21](=[C:22]([H:27])[H:28])[C:23]([H:29])([H:30])[H:31])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:19](=[O:20])[C:21](=[C:22]([H:27])[H:28])[C:23]([H:29])([H:30])[H:31].[C:1]([C:2](=[C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])[H:10])([H:6])([H:7])[H:8].[H:9][O:18][C:17]([H:24])([H:25])[H:26],49.81900571647566
2304,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([O:9][C:10](=[O:11])[C:12](=[C:13]([H:18])[H:19])[C:14]([H:20])([H:21])[H:22])([H:15])([H:16])[H:17]>>[C:1]([C:2]([H:3])([H:4])[H:16])([H:5])([H:6])[H:7].[C:8]([O:9][C:10](=[O:11])[C:12](=[C:13]([H:18])[H:19])[C:14]([H:20])([H:21])[H:22])([H:15])[H:17],21.97924528020667
2747,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])[C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[C:20]([O:21][C:22](=[C:23]([H:28])[H:29])[H:27])([H:24])([H:25])[H:26]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])=[C:8]([C:9]([H:17])([H:18])[H:19])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[C:20]([H:24])([H:25])[H:26].[H:15][O:21][C:22](=[C:23]([H:28])[H:29])[H:27],67.06589824217372
2920,[C:16]([C:17]([C:18]([C:19]([H:26])([H:27])[H:28])[C:20]([H:29])([H:30])[H:31])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:16]([C:17]([C:18]([C:19]([H:26])([H:27])[H:28])=[C:20]([H:30])[H:31])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2]([O:3][C:4]([O:5])([C:6](=[C:7]([H:14])[H:15])[H:13])[H:29])([H:11])[H:12])([H:8])([H:9])[H:10],47.935948670783546
2707,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])[C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[C:20]([O:21][C:22](=[O:23])[C:24](=[C:25]([H:30])[H:31])[C:26]([H:32])([H:33])[H:34])([H:27])([H:28])[H:29]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])=[C:8]([C:9]([H:17])([H:18])[H:19])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[C:20]([O:21][C:22](=[O:23])[C:24]=[C:25]([H:30])[H:31])([H:27])([H:28])[H:29].[H:15][C:26]([H:32])([H:33])[H:34],85.81033886549994
2954,[C:16]([O:17][C:18](=[O:19])[C:20]([C:21]([H:29])([H:30])[H:31])([C:22]([H:32])([H:33])[H:34])[C:23]([H:24])[H:25])([H:26])([H:27])[H:28].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C:4]([O:5][C:23]([C:20]([C:18]([O:17][C:16]([H:26])([H:27])[H:28])=[O:19])([C:21]([H:29])([H:30])[H:31])[C:22]([H:32])([H:33])[H:34])([H:24])[H:25])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],27.65517989947693
1505,[C:10]([C:11]([C:12]([H:13])[c:14]1[c:15]([H:25])[c:16]([H:26])[c:17]([H:27])[c:18]([H:28])[c:19]1[H:29])([H:23])[H:24])([H:20])([H:21])[H:22].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[C:10]([C:11](=[C:12]([H:13])[c:14]1[c:15]([H:25])[c:16]([H:26])[c:17]([H:27])[c:18]([H:28])[c:19]1[H:29])[H:23])([H:20])([H:21])[H:22].[O:1]([C:2](=[O:3])[C:4]([C:5]([H:8])[H:9])([H:7])[H:24])[H:6],36.42417760391254
5530,[C:13]([C:14]([C:15]([H:16])[H:17])([N:18]([C:19](=[O:20])[H:26])[H:25])[H:24])([H:21])([H:22])[H:23].[C:1]([C:2](=[O:3])[O:4][C:5](=[C:6]([H:11])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]=[O:3])([H:7])([H:8])[H:9].[O:4]([C:5](=[C:6]([H:11])[H:12])[H:10])[C:15]([C:14]([C:13]([H:21])([H:22])[H:23])([N:18]([C:19](=[O:20])[H:26])[H:25])[H:24])([H:16])[H:17],60.78596223681234
